US04263209
1,4-bis(3-methyltetrahydrofuran-2,5-dion-3-yl)benzene
The product was then hydrolyzed by refluxing according to the procedure of Example 1 above. The product, 1,4-bis(1,2-dicarboxy-1-methylethyl)benzene, was heated with acetic anhydride according to the process employed in Example 1. After heating at 70° C. for 20 hours the desired dianhydride having the following analysis was obtained.

reactant | 1,4-bis(1,2-dicarboxy-1-methylethyl)benzene | C(=O)(O)C(CC(=O)O)(C)C1=CC=C(C=C1)C(CC(=O)O)(C(=O)O)C | C16H18O8
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1,4-bis(3-methyltetrahydrofuran-2,5-dion-3-yl)benzene | CC1(C(OC(C1)=O)=O)C1=CC=C(C=C1)C1(C(OC(C1)=O)=O)C | C16H14O6
